US07157487B2
In THF (7.0 ml) was dissolved methyl 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetate (341.3 mg, 0.788 mmol). To the resulting solution was added 0.25N NaOH (7.0 ml). The resulting mixture was stirred at 50° C. for 18 hours. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure. The residue was acidified with 1N HCl (2.5 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetic acid (285.8 mg, 86%) as a light pink amorphous substance.

reactant | methyl 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetate | 0.788 mmol, 341.3 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)OC)Cl | C25H21ClN2O3
reactant | NaOH | 0.25N, 7.0 ml | [OH-].[Na+]
solvent | THF | 7.0 ml | C1CCOC1 | C4H8O
product | 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetic acid | 285.8 mg, 86% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)O)Cl | C24H19ClN2O3
